US07410966B2
a) 6-Bromo-2-[5-(4-nitrophenyl)-2-furyl]-3H-imidazo[4,5-b]pyridine
By a procedure similar to Example 274 but starting from 5-bromopyridine-2,3-diamine and 5-(4-nitrophenyl)-2-furaldehyde, the title compound was obtained.

reactant | 5-bromopyridine-2,3-diamine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 5-(4-nitrophenyl)-2-furaldehyde | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7NO4
product | 6-Bromo-2-[5-(4-nitrophenyl)-2-furyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C=2OC(=CC2)C2=CC=C(C=C2)[N+](=O)[O-] | C16H9BrN4O3
